US08232289B2
To a solution of 1-(3-formyl-pyridin-2-yl)-3-methyl-1H-pyrazole-4-carboxylic acid ethyl ester (1 g, 3.9 mmol) in methanol (25 mL), sodium borohydrate (220.2 mg, 5.8 mmol) is added. The mixture is stirred at room temperature for 2 hr. The solvent is eliminated and the crude is dissolved in ethyl acetate and washed with saturated aqueous solution of ammonium chloride. The organic layer is separated, dried over sodium sulfate, filtered and the solvent evaporated under reduced pressure to give 1 g of ethyl 1-[3-(hydroxymethyl)-2-pyridyl]-3-methyl-pyrazole-4-carboxylate. MS (m/z): 262 (M+1)

reactant | 1-(3-formyl-pyridin-2-yl)-3-methyl-1H-pyrazole-4-carboxylic acid ethyl ester | 3.9 mmol, 1 g | C(C)OC(=O)C=1C(=NN(C1)C1=NC=CC=C1C=O)C | C13H13N3O3
reactant | sodium borohydrate | 5.8 mmol, 220.2 mg | [B-].[Na+]
solvent | methanol | 25 mL | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 1-[3-(hydroxymethyl)-2-pyridyl]-3-methyl-pyrazole-4-carboxylate | 1 g | OCC=1C(=NC=CC1)N1N=C(C(=C1)C(=O)OCC)C | C13H15N3O3
